US07091227B2
N-[6-(Aminomethyl)-1,3-benzothiazol-2-yl]-N′-ethylurea
About 0.05 g of N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea was charged into about 10 mL of ethyleneglycol dimethylether. Introduced about 50 mg lithium aluminum hydride in several portions over about 12–24 hours. The slurry was quenched with about 5–10 mL ethyl acetate then about 1–2 mL of saturated aqueous sodium sulfate. The slurry was then diluted with water and extracted with ethyl acetate. Following drying and removal of solvents under reduced pressure, the product was isolated by preparative HPLC. 1H NMR 1.08 (t, 3H), 1.88 (s, 3H), 3.17 (m, 2H), 3.83 (s, 2H), 7.07 (m, 1H), 7.32 (m, 1H), 7.54 (d, 1H), 7.8 (s, 1H); LC/MS 1.86 min, 251 (M+1), 249 (M−1).

reactant | N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea | 0.05 g | C(#N)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C11H10N4OS
reactant | lithium aluminum hydride | about 50 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyleneglycol dimethylether | about 10 mL | COCCOC | C4H10O2
product | N-[6-(Aminomethyl)-1,3-benzothiazol-2-yl]-N′-ethylurea | NCC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C11H14N4OS
